US04341718
N-(1-Methylethyl)-3-(3-Methoxyphenyl)-2-Oxiranecarboxamide
This compound was prepared from N-(1-methylethyl)-3-methoxycinnamoylcarboxamide (43.9 g.), m-chloroperbenzoic acid (46 g.), 4,4'-thiobis(6-tert-butyl-m-cresol) (0.6 g.), and ethylene dichloride (500 ml.) as described in Example 7. The compound obtained as an oil was used directly in the subsequent reaction.

reactant | N-(1-methylethyl)-3-methoxycinnamoylcarboxamide | 43.9 g | CC(C)NC(=O)C(C=CC1=CC(=CC=C1)OC)=O | C14H17NO3
reactant | m-chloroperbenzoic acid | 46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4'-thiobis(6-tert-butyl-m-cresol) | 0.6 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
solvent | ethylene dichloride | 500 ml | C(CCl)Cl | C2H4Cl2
product | N-(1-Methylethyl)-3-(3-Methoxyphenyl)-2-Oxiranecarboxamide | CC(C)NC(=O)C1OC1C1=CC(=CC=C1)OC | C13H17NO3
